US06506901B2
Step B: 4-Aminomethyl-1-(12-hydroxydodecyl)-piperidine
Prepared from 1-(12-hydroxydodecyl)-piperidine-4-carboxamide (3.3 g, 10.6 mmol) and LAH (0.8 g, 21.2 mmol) according to general procedure used for Example 8 (Step B) to give 3.1 g of title compound as a white solid.

reactant | 1-(12-hydroxydodecyl)-piperidine-4-carboxamide | 10.6 mmol, 3.3 g | OCCCCCCCCCCCCN1CCC(CC1)C(=O)N | C18H36N2O2
reactant | LAH | 21.2 mmol, 0.8 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 4-Aminomethyl-1-(12-hydroxydodecyl)-piperidine | 3.1 g | NCC1CCN(CC1)CCCCCCCCCCCCO | C18H38N2O
